US08859534B2
1-(6-Vinylpyridin-3-yl)ethanone
The reaction mixture of 1-(6-bromopyridin-3-yl)ethanone (0.68 g, 3.41 mmol), 2,4,6-trivinyl-1,3,5,2,4,6-trioxatriborinane:pyridine (1:1) (0.57 g, 2.39 mmol), potassium carbonate (0.85 g, 6.14 mmol), and Pd(Ph3P)4 (0.16 g, 0.14 mmol) in acetonitrile (10 mL) was degassed with argon for 5 minutes. Then it was heated in the microwave for 30 min at 115° C. The organic phase was removed using a pipette, dried (MgSO4), filtered and concentrated and purified by flash chromatography (SiO2; heptane/EtOAc, gradient 20-80%). Yield: 0.36 g (72%).

reactant | 1-(6-bromopyridin-3-yl)ethanone | 3.41 mmol, 0.68 g | BrC1=CC=C(C=N1)C(C)=O | C7H6BrNO
reactant | 2,4,6-trivinyl-1,3,5,2,4,6-trioxatriborinane pyridine | 2.39 mmol, 0.57 g | C(=C)B1OB(OB(O1)C=C)C=C.N1=CC=CC=C1
reactant | potassium carbonate | 6.14 mmol, 0.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | Pd(Ph3P)4 | 0.14 mmol, 0.16 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(6-Vinylpyridin-3-yl)ethanone | C(=C)C1=CC=C(C=N1)C(C)=O | C9H9NO
